Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
vancomycin / Iodinated Contrast Media - IV Dye
 
Attending: ___
 
Chief Complaint:
Uterine leiomyosarcoma for chemotherapy

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ hx of Leiomyosarcoma metastatic to liver, lung and bone s/p 
chemotherapy with limited response who is admitted for C3 of 
Adriamycin & Iphosphamide.  Patient denies any fevers, cough, 
chest pain or dyspnea. She does note some bloating and passing 
of gas. Last BM was yesterday, and was described as "soft." She 
has chronic LUQ abdominal pain which is tolerated without 
medication.

Review of Systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies blurry vision, diplopia, loss of vision, 
photophobia. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies chest pain or tightness, palpitations, lower 
extremity edema. Denies cough, shortness of breath, or wheezes. 
Denies nausea, vomiting, diarrhea, constipation, abdominal pain, 
melena, hematemesis, hematochezia. Denies dysuria, stool or 
urine incontinence. Denies arthralgias or myalgias. Denies 
rashes or skin breakdown. No numbness/tingling in extremities. 
All other systems negative.  

 
Past Medical History:
 
PAST ONCOLOGIC HISTORY:
___: Presented with pelvic pain and heavy bleeding to PCP; US 

showed possible fibroid, started on low dose OCP.
___: Continued to have uterine bleeding for 2 months.
___: Saw Dr. ___ US showed significant growth in 
uterine mass.  MRI performed, referred to Dr ___ 
malignant concern, surgery planned for ___: Developed worsening pain, presented to ER at ___.  CT 
showed growth in mass with surrounding fluid.
___: Radical hysterectomy
___: CT showed lung lesions (3, less than 5mm) and liver 
lesion 1.8x1.8cm.  Biopsy confirmed liver lesion as metastatic 
disease.
___: Further imaging showed right breast along with new 
pulmonary and liver lesion; MRI showed pelvic and right iliac 
bone disease.
___: Cycle #1 gemcitabine/docetaxel.
___: Cycle #3 gemcitabine/docetaxel; complicated by ICU 
stay for neutropenic fevers and hypotension.
___: Cycle #4 gemcitabine/docetaxel.
___: CT scan showed progression of disease.
___: Cycle #1 doxorubicin/ifosfamide/mesna.
___: Cycle #2 doxorubicin/ifosfamide/mesna.

PAST MEDICAL HISTORY:
Leiomyosarcoma as per onc hx; metastatic
Irritable bowel syndrome
Mild depression
 
Social History:
___
Family History:
One healthy brother.  Father died at age ___ from leukemia.The 
paternal side of the family has significant history of 
colorectal cancer, and a paternal grandmother had pancreatic 
cancer.  Her first cousin was diagnosed with breast cancer in 
her early ___.

 
Physical Exam:
ADMISSION:
Vitals - 98.0  98/68  HR 60  sat 99% on RA
GEN: NAD, thin
HEENT: clear OP
Neck: Supple, no JVD, no thyromegaly.
Lymph nodes: No cervical, supraclavicular LAD.
CV: NR, RR, no murmur 
RESP: Good air movement bilaterally, no rhonchi or wheezing.
ABD: Soft, non-tender, non-distended, + bowel sounds; small 
epigastric mildly mobile mass 
EXTR: No lower leg edema, no clubbing or cyanosis
DERM: No rash
Neuro: A&O, no gross deficit
PSYCH: Appropriate 

DISCHARGE:
Vitals - afebrile 97.4- 98/64-56-16-100RA
GEN: NAD, thin
HEENT: clear OP
Neck: Supple, no JVD, no thyromegaly.
Lymph nodes: No cervical, supraclavicular LAD.
CV: NR, RR, no murmur 
RESP: Good air movement bilaterally, no rhonchi or wheezing.
ABD: Soft, non-tender, non-distended, + bowel sounds; small 
epigastric mildly mobile mass 
EXTR: No lower leg edema, no clubbing or cyanosis
DERM: No rash
Neuro: A&O, no gross deficit
PSYCH: Appropriate 

 
Pertinent Results:
LABS:
___ 05:51AM BLOOD WBC-4.5 RBC-2.80* Hgb-9.4* Hct-26.7* 
MCV-95 MCH-33.7* MCHC-35.4* RDW-19.2* Plt ___
___ 10:07AM BLOOD WBC-5.0# RBC-3.19* Hgb-9.7* Hct-29.5* 
MCV-93# MCH-30.5 MCHC-33.0 RDW-19.5* Plt ___
___ 10:07AM BLOOD Neuts-69.4 ___ Monos-8.1 Eos-0.4 
Baso-0.6
___ 05:51AM BLOOD Glucose-72 UreaN-7 Creat-0.6 Na-141 K-3.7 
Cl-111* HCO3-26 AnGap-8
___ 10:07AM BLOOD Glucose-70 UreaN-11 Creat-0.7 Na-139 
K-3.3 Cl-103 HCO3-29 AnGap-10
___ 05:51AM BLOOD ALT-18 AST-15 AlkPhos-35 TotBili-0.4
___ 10:07AM BLOOD ALT-16 AST-20 LD(LDH)-218 AlkPhos-44 
TotBili-0.3
___ 05:51AM BLOOD Calcium-8.7 Phos-3.2 Mg-2.0
___ 10:07AM BLOOD Albumin-4.5 Calcium-9.6 Phos-2.8 Mg-2.1

CT Torso w/ contrast ___: IMPRESSION: 
1. Multiple hepatic metastases, overall not significantly 
changed compared to the prior CT from ___. 
2. Interval increase in size of nodular enhancing lesions within 
the pelvis, a fully described above. 
3. No significant change in size of anterior abdominal soft 
tissue nodule compared to the most recent CT from ___. 

4. Unchanged tiny sub 4 mm pulmonary nodules within the right 
lung. 
5. Unchanged dilatation of the ___ through ___ portions of the 
duodenum with narrowing of the ___ portion of the duodenum as it 
passes between the superior mesenteric artery and aorta, 
suggestive of SMA syndrome in the appropriate clinical setting, 
especially given the less than normal angle between the superior 
mesenteric artery and the aorta. 

 
Brief Hospital Course:
___ hx of Leiomyosarcoma metastatic to liver, lung and bone s/p 
chemotherapy with limited response who was admitted for C3 of 
Adriamycin & Iphosphamide.

# Uterine Leiomyosarcoma: Imaging studies show that her disease 
is metastatic with involvement of the liver, lungs, right iliac 
bone, pelvis and possibly the right breast. She is s/p a radical 
hysterectomy on ___ @ ___ hosptial, now s/p four 
cycles of gemcitabine and taxotere. Started C3 of Adriamycin and 
Iphosphamide ___ per outpatient Oncologist, Dr. ___. 
Will need Neulasta on ___.

# Irritible Bowel Syndrome / Bloating: Simethicone 80mg QID.

# Depression: Continued home Zoloft.
 
CODE: FULL-confirmed
EMERGENCY CONTACT: ___ (Partner/HCP): ___ 
(h) ___ (c)
DISPO: OMED to Home

### TRANSITIONAL ISSUES ###:
-Will need Neulasta on ___.
-f/u w/ Hem/Onc
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 75 mg PO DAILY 
2. Lorazepam 0.5 mg PO HS:PRN insomnia 
3. Cyanocobalamin Dose is Unknown  PO DAILY 

 
Discharge Medications:
1. Cyanocobalamin 100 mcg PO DAILY 
2. Lorazepam 0.5 mg PO HS:PRN insomnia 
3. Sertraline 75 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1)Leiomyosarcoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted to our hospital for Chemotherapy. You 
tolerated it well. You are being discharged home. 
Please make sure to go to ___ Oncology to receive your 
Neulasta shot on ___. 

It has been a pleasure to take care of you here at ___. 
 
Followup Instructions:
___